resistor_cube - fault test
V1 n7 0 DC 12
R1 0 n1 32.9084
R2 0 n2 0.987776
R3 0 n4 0.987372
R4 n1 n3 1.010515
R5 n1 n5 1.018411
R6 n2 n3 0.999244
R7 n2 n6 0.98996
R8 n3 n7 0.987789
R9 n4 n5 0.986098
R10 n4 n6 1.018881
R11 n5 n7 0.998331
R12 n6 n7 0.983284
.op
.control
run
print v(n1) v(n2) v(n3) v(n4) v(n5) v(n6) v(n7)
print @r1[i] @r2[i] @r3[i] @r4[i] @r5[i] @r6[i] @r7[i] @r8[i] @r9[i] @r10[i] @r11[i] @r12[i]
.endc
.end
